US08486953B2
Preparation of N-(2-(dimethylamino)ethyl)-5-methyl-4-(2-(tetrahydro-2H-pyran-4-yloxy)pyridin-3-ylamino)thieno[2,3-d]pyrimidine-6-carboxamide
HATU (0.105 g, 0.28 mmol) was added into a mixture of 5-methyl-4-(2-(tetrahydro-2H-pyran-4-yloxy)pyridin-3-ylamino)thieno[2,3-d]pyrimidine-6-carboxylic acid (0.097 g, 0.25 mmol) and Hünig's base (44 μL, 0.25 mmol) in DMF (2.0 mL) at 0° C. The reaction mixture was stirred at 0° C. for 0.5 hours. N,N-Dimethylethylenediamine (137 μL, 1.25 mmol) was added and the coolant removed. The reaction mixture was stirred at ambient temperature overnight. The solvent was concentrated in vacuo and the product purified by reverse phase preparative HPLC to yield off-white solid (0.026 g, 22%).

reactant | HATU | 0.28 mmol, 0.105 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 5-methyl-4-(2-(tetrahydro-2H-pyran-4-yloxy)pyridin-3-ylamino)thieno[2,3-d]pyrimidine-6-carboxylic acid | 0.25 mmol, 0.097 g | CC1=C(SC=2N=CN=C(C21)NC=2C(=NC=CC2)OC2CCOCC2)C(=O)O | C18H18N4O4S
reactant | Hünig's base | 0.25 mmol, 44 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | N,N-Dimethylethylenediamine | 1.25 mmol, 137 μL | CN(CCN)C | C4H12N2
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | N-(2-(dimethylamino)ethyl)-5-methyl-4-(2-(tetrahydro-2H-pyran-4-yloxy)pyridin-3-ylamino)thieno[2,3-d]pyrimidine-6-carboxamide | 0.026 g, 22% | CN(CCNC(=O)C1=C(C2=C(N=CN=C2NC=2C(=NC=CC2)OC2CCOCC2)S1)C)C | C22H28N6O3S
